US08664220B2
Step 6: [1-(4-Bromo-phenyl)-cyclopropyl]-acetic acid ethyl ester
[1-(4-Bromo-phenyl)-cyclopropyl]-acetic acid (from the previous step) was dissolved in EtOH (80 mL) and conc. H2SO4 (2 mL) was added. The reaction was heated to 80° C. overnight then concentrated and submitted to standard aqueous workup to afford the title compound.

reactant | [1-(4-Bromo-phenyl)-cyclopropyl]-acetic acid | BrC1=CC=C(C=C1)C1(CC1)CC(=O)O | C11H11BrO2
reactant | H2SO4 | 2 mL | OS(=O)(=O)O | H2O4S
reactant | EtOH | 80 mL | CCO | C2H6O
product | [1-(4-Bromo-phenyl)-cyclopropyl]-acetic acid ethyl ester | C(C)OC(CC1(CC1)C1=CC=C(C=C1)Br)=O | C13H15BrO2
